US09403846B2
Step 4. Synthesis of rel-N-({(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-[(1R)-2-fluoro-1-hydroxyethyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide (C46)
Conversion of rel-(1R)-1-[(2R,4R,5S)-5-amino-2-cyclopropyl-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]-2-fluoroethanol (C45) to the product was carried out according to the method described for synthesis of N-({(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-[(1S)-1-hydroxyethyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide (C30) in Example 3. The product was obtained as a solid. Yield: 155 mg, 0.324 mmol, 60%. LCMS m/z 479.2 [M+H+].

reactant | rel-(1R)-1-[(2R,4R,5S)-5-amino-2-cyclopropyl-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]-2-fluoroethanol | N[C@@]1([C@@H](C[C@@H](OC1)C1CC1)[C@H](CF)O)C1=C(C=C(C=C1)F)F | C16H20F3NO2
reactant | N-({(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-[(1S)-1-hydroxyethyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide | C1(CC1)[C@H]1C[C@H]([C@@](CO1)(C1=C(C=C(C=C1)F)F)NC(=S)NC(C1=CC=CC=C1)=O)[C@H](C)O | C24H26F2N2O3S
product | rel-N-({(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-[(1R)-2-fluoro-1-hydroxyethyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide | C1(CC1)[C@H]1C[C@H]([C@@](CO1)(C1=C(C=C(C=C1)F)F)NC(=S)NC(C1=CC=CC=C1)=O)[C@H](CF)O | C24H25F3N2O3S
